US07214475B2
Freshly activated magnesium (8.5 g, 0.35 mol) was slowly added over a period of four hours to a solution of 1,4-dibromobenzene (80 g, 0.34 mol) in 200 mL of diethylether, keeping the temperature below 30° C. The reaction mixture was stirred for 8 h and then slowly added to a mixture of tetraethoxysilane (100 mL, 0.44 mol) in Et2O (50 mL). The mixture was stirred for 12 h, and unreacted tetraethoxysilane and diethylether were removed in vacuum. The remaining liquid was fractionally distilled through a Vigreux column under reduced pressure to provide 4-bromophenyltriethoxysilane as a clear oil (37 g, 37%, bp 80–90° C. at 250 μHg). 1HNMR(400 MHz, CDCl3): δ 7.56 (4H, dd), 3.89 (6H, q), 1.27 (9H, t). 13CNMR (100 MHz, CDCl3): δ 136.4, 131.1, 58.8, 18.2. GC-MS: 318 (M+).

reactant | magnesium | 0.35 mol, 8.5 g | [Mg] | Mg
reactant | 1,4-dibromobenzene | 0.34 mol, 80 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | tetraethoxysilane | 0.44 mol, 100 mL | C(C)O[Si](OCC)(OCC)OCC | C8H20O4Si
solvent | diethylether | 200 mL | C(C)OCC | C4H10O
solvent | Et2O | 50 mL | CCOCC | C4H10O
product | 4-bromophenyltriethoxysilane | BrC1=CC=C(C=C1)[Si](OCC)(OCC)OCC | C12H19BrO3Si
